US05086055
4-[4-[2-(3-methyl-2-oxazolidinon-5-yl)ethyl]-1-piperazinyl]benzamide
Following the procedure of Example 2, the title compound is prepared from 5-(2-chloroethyl)-3-methyl-2-oxazolidinone and 4-(1-piperazinyl)benzamide.

reactant | 5-(2-chloroethyl)-3-methyl-2-oxazolidinone | ClCCC1CN(C(O1)=O)C | C6H10ClNO2
reactant | 4-(1-piperazinyl)benzamide | N1(CCNCC1)C1=CC=C(C(=O)N)C=C1 | C11H15N3O
product | 4-[4-[2-(3-methyl-2-oxazolidinon-5-yl)ethyl]-1-piperazinyl]benzamide | CN1C(OC(C1)CCN1CCN(CC1)C1=CC=C(C(=O)N)C=C1)=O | C17H24N4O3
